US03965074
A 163-g (0.56 mole) sample of 2,3-dibromo-2,3,3-trifluoropropionyl fluoride was added dropwise to a mechanically stirred suspension of 76 g (0.56 mole) of aluminum chloride in 282 ml of methylene chloride. The reaction mixture warmed spontaneously to 40°. After cooling, the volatile portion of the reaction mixture was distilled under reduced pressure into a Dry Ice-cooled trap. Redistillation gave 97.5 g (57%) of 2,3-dibromo-2,3,3-trifluoropropionyl chloride as a colorless liquid: bp 128°-129°; nD25 1.4436; ir (liquid) 5.57 μ (COCl); 19F nmr (CCl3F) δ 55.7 ppm (d, J = 175 Hz to d, J = 14.5 Hz, 1F), 57.9 ppm (d, J = 175 Hz to d, J = 16 Hz, 1F) and 116.5 ppm (d, J = 16 Hz to d, J = 14.5 Hz, 1F).

reactant | 2,3-dibromo-2,3,3-trifluoropropionyl fluoride | BrC(C(=O)F)(C(F)(F)Br)F | C3Br2F4O
reactant | aluminum chloride | 0.56 mole, 76 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 282 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dibromo-2,3,3-trifluoropropionyl chloride | 97.5 g, 57% | BrC(C(=O)Cl)(C(F)(F)Br)F | C3Br2ClF3O
